US09120749B2
Example 624 cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(3-((dimethylamino)methyl)phenylamino)quinolin-3-yl)methanone
Following general procedure D, (6-bromo-4-(3-((dimethylamino)methyl)phenylamino)quinoline-3-yl)(cyclopropyl)methanone (100 mg, 0.23 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (98 mg, 0.34 mmol) to afford the desired product (87 mg, 75%) as a yellow-green solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.45 (s, 1H), 8.25 (dd, J=8.8, 1.9 Hz, 1H), 8.05 (d, J=8.8 Hz, 1H), 7.97 (s, 1H), 7.74 (m, 1H), 7.63 (m, 3H), 7.28 (s, 2H), 4.39 (s, 2H), 2.84 (m, 7H), 1.19 (m, 4H); ESI MS m/z 506 [C28H25Cl2N3O2+H]+; HPLC 98.0% (AUC), tR=11.15 min.

reactant | (6-bromo-4-(3-((dimethylamino)methyl)phenylamino)quinoline-3-yl)(cyclopropyl)methanone | 0.23 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CN(C)C | C22H22BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.34 mmol, 98 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-(3-((dimethylamino)methyl)phenylamino)quinolin-3-yl)methanone | 87 mg, 75% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)CN(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C28H25Cl2N3O2
